US04882085
20 ml of SOCl2 was added to 4 g (1.13×10-2 mol) of decyloxybiphenylcarboxylic acid, and the mixture was heated at reflux for 3.5 hours. Excessive SOCl2 was evaporated to obtain decyloxybiphenylcarboxylic acid chloride.

reactant | decyloxybiphenylcarboxylic acid | 1.13×10-2 mol, 4 g | C(CCCCCCCCC)OC1=C(C(=CC=C1)C1=CC=CC=C1)C(=O)O | C23H30O3
reactant | SOCl2 | 20 ml | O=S(Cl)Cl | Cl2OS
product | decyloxybiphenylcarboxylic acid chloride | C(CCCCCCCCC)OC1=C(C(=CC=C1)C1=CC=CC=C1)C(=O)Cl | C23H29ClO2
